2115-09-26 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CVVH
   24 Hour Events:
   A line placed
   3 doses of colchicines for gout of right little finger
 OK per renal.
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-9-25**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 103) bpm
   BP: 90/52(66) {75/45(57) - 118/63(81)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Height: 64 Inch
             Total In:
                                                                  2,482 mL
                                                                    491 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                  1,850 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,834 mL
                                                                 -1,359 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Loud), (Murmur: Systolic, Diastolic), Mechanical
   heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : at bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, edematous
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3305**]
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   70 K/uL
   9.1 g/dL
   91 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-9-24**]  07:47 PM
                             [**2115-9-25**]  04:03 AM
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
   WBC
   5.7
   5.3
   4.0
   Hct
   35.1
   32.2
   27.1
   Plt
   86
   71
   70
   Cr
   7.2
   5.4
   4.3
   3.2
   Glucose
   86
   85
   91
   Other labs: PT / PTT / INR:25.5/63.2/2.5, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.6 %,
   Mono:7.8 %, Eos:4.2 %, Albumin:3.9 g/dL, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and ascites.
   .
   # R- sided heart failure: Unclear etiology. Recent exacerbation with
   significant weight gain.
   - will undergo fluid removal with CVVH
   # Renal failure: Acute on chronic renal failure with approximately 30
   pounds weight gain. FeUrea was 30%, UNa 15 both consistent with
   prerenal picture. Urine eos negative.
   - Will need hemodialysis.
   - Will start with CVVH per renal recs as limited by hypotension
   - follow up renal recs
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol was held to increase BP.
   - f/u liver recs
   .
   # Mechanical MV/TV/AV: INR supratherapeutic currently.
   - Coumadin being held. Will restart in AM
   - argatroban while INR <3.0 (held for cath placment, then restarted)
   .
   # Atrial fibrillation: Holding nadolol given hypotension.
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, replete lytes PRN
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] after CVVH
   .
   Active Medications [**Known lastname 3306**],[**Known firstname 3307**]
   1. IV access: Peripheral line Order date: [**9-24**] @ 2210 10. Miconazole
   Powder 2% 1 Appl TP TID  Order date: [**9-24**] @ 2210
   2. IV access: Peripheral line Order date: [**9-24**] @ 2210 11. Pantoprazole
   40 mg PO Q12H  Order date: [**9-24**] @ 2210
   3. IV access: Dialysis Catheter (Tunneled 2-Lumen) Location: Right,
   Date inserted: [**2115-9-24**] Order date: [**9-25**] @ 0730 12. Potassium Chloride
   10 mEq / 100 mL SW (CRRT Only) Continuous
   Initial Rate: 20 ml/hr
   w/ Sliding Scale
   CRRT sliding scale. For K <3.0, increase rate 50% and call renal
   fellow. For K >4.6, decrease rate 50% and recheck K in [**2-24**] hours. Order
   date: [**9-24**] @ 2210
   4. OK to use line Order date: [**9-24**] @ 2210 13. Prismasate (B32 K2)
   Continuous at 1500 ml/hr
   Infuse Replacement fluid: Prefilter Rate: Postfilter Rate: Replacement
   Solution for CRRT Order date: [**9-24**] @ 2210
   5. 20 gm Calcium Gluconate/ 500 mL D5W Continuous
   Initial Rate: 30 ml/hr
   w/ Sliding Scale
   Monitor ionized calcium. [**Name8 (MD) **] MD [**First Name (Titles) **] [**Last Name (Titles) **] >1.3 or <0.9 Part of CRRT
   protocol. Order date: [**9-24**] @ 2210 14. Prismasate (B32 K2)*
   Continuous at 500 ml/hr
   Dialysate Solution for CRRT Order date: [**9-24**] @ 2210
   6. Argatroban 0.5-2 mcg/kg/min IV DRIP INFUSION
   Start at 1 mcg/kg/min. This corresponds to 70 mcg/minute. Obtain PTT 2
   hours after initiating infusion and every 6 hours thereafter. Titrate
   to aPTT 60-80 seconds as below: if PTT<40: increase by .5 mcg/kg/min if
   PTT 40-59: increase by .25 mcg/kg/min if PTT 60-80: no change if PTT
   80-100: hold for 1 hour and decrase by .5 mcg/kg/min  Order date: [**9-24**]
   @ 2210 15. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**9-24**] @ 2210
   7. Colchicine 0.6 mg PO Q6H Duration: 3 Doses Order date: [**9-25**] @ 1705
   16. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**9-24**] @ 2210
   8. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**9-24**] @ 2210
   17. sevelamer CARBONATE 1600 mg PO TID W/MEALS  Order date: [**9-24**] @
   2210
   9. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**9-24**] @ 2055
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-24**] 08:07 PM
   Tunneled (Hickman) Line - [**2115-9-24**] 08:08 PM
   Arterial Line - [**2115-9-25**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, Argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2115-09-27 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac
   cirrhosis, p/w acute on chronic renal failure and ascites.
   24 Hour Events:
   Started on Midodrine
   Overnight BPs in 80s
   Setting up for hemodialysis
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: no lightheadedness, dizziness
   Ear, Nose, Throat: not thirsty
   Cardiovascular: no chest pain
   Respiratory: no shortness of breath
   Gastrointestinal: no abd pain, N/V, D/C
   Psychiatric / Sleep: slept well
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-9-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (76 - 91) bpm
   BP: 85/44(58) {85/44(58) - 140/77(99)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 100% on RA
   Heart rhythm: AV Paced
   Wgt (current): 63.6 kg (admission): 74.1 kg
   Height: 64 Inch
             Total In:
                                                                  3,046 mL
                                                                  1,575 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  2,506 mL
                                                                  1,575 mL
   Blood products:
   Total out:
                                                                 10,011 mL
                                                                  3,547 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,965 mL
                                                                 -1,972 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.42/44/68/26/3
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Head, Ears, Nose, Throat: Normocephalic, moist mucosal membraines, JVP
   not elevated
   Cardiovascular: (Murmur: Systolic), mechanical heart sounds, split S1
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent), chronic
   skin changes
   Respiratory / Chest: Clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, decreased dependent edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.4 g/dL
   99 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   26 mg/dL
   98 mEq/L
   137 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
                             [**2115-9-26**]  08:23 AM
                             [**2115-9-26**]  08:37 AM
                             [**2115-9-26**]  04:00 PM
                             [**2115-9-26**]  04:10 PM
                             [**2115-9-26**]  09:42 PM
                             [**2115-9-26**]  09:58 PM
                             [**2115-9-27**]  03:59 AM
                             [**2115-9-27**]  04:13 AM
   WBC
   4.0
   4.4
   Hct
   27.1
   28.2
   28.4
   Plt
   70
   65
   Cr
   4.3
   3.2
   3.0
   2.3
   2.1
   TCO2
   23
   23
   27
   30
   Glucose
   91
   95
   112
   106
   99
   Other labs: PT / PTT / INR:26.7/61.2/2.7, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:70.1 %, Band:0.0 %, Lymph:15.4 %,
   Mono:10.4 %, Eos:3.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.9 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and ascites.
   .
   # R- sided heart failure: Unclear etiology. Recent exacerbation with
   significant weight gain.
   - Being agressively diuresed with CVVH (neg 7L yest, 12L total)
   # ESRD: Acute prerenal on chronic renal failure with approximately 30
   pounds weight gain.
   - Getting CVVH as limited by hypotension while setting up
   hemodialysis.
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol held to increase BP.
   - f/u liver recs
   .
   # Mechanical MV/TV/AV:
   - Restarted on Coumadin
   - continue argatroban until INR [**2-23**] since it falsely elevates INR.
   .
   # Atrial fibrillation: Holding nadolol given hypotension and no known
   varices.
   - Restarted anticoagulation with Warfarin 1mg daily, INR 2.7
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, not repleting lytes as renal taking care of
   this with CVVH.
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] once ready for HD.
   Active Medications [**Known lastname 3306**],[**Known firstname 3307**]
   1. Midodrine 5 mg PO TID  Order date: [**9-26**] @ 1126
   2. Pantoprazole 40 mg PO Q12H  Order date: [**9-24**] @ 2210
   3. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**9-24**] @ 2210
   4. Warfarin 1 mg PO DAILY16  Order date: [**9-26**] @ 1143
   5. sevelamer CARBONATE 1600 mg PO TID W/MEALS  Order date: [**9-24**] @ 2210
   6. Miconazole Powder 2% 1 Appl TP TID  Order date: [**9-24**] @ 2210
   7. Systemic argatroban gtt